US08378104B2
Step C: 4-fluorothieno[2,3-c]pyridine
A mixture of 4-fluorothieno[2,3-c]pyridine-2-carboxylic acid (765 mg, 3.88 mmol) and copper powder (629 mg, 9.91 mmol) in diphenyl ether (3.8 mL) was heated to boiling for ˜5 min. After cooling to 40° C., the reaction mixture was diluted with heptane (10 mL), filtered through a short pad of Celite, and concentrated to remove the heptane. Purification of the residue by ISCO chromatography (5 to 45% ethyl acetate:heptane) afforded 441 mg (74%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.96 (d, J=1.8 Hz, 1 H), 8.34 (d, J=2.0 Hz, 1 H), 7.61-7.88 (m, 1 H), 7.38-7.57 (m, 1 H); MS (ESI): 154.07 [M+H]+; HPLC tR=2.97 min (ZQ3, polar—4 min).

reactant | 4-fluorothieno[2,3-c]pyridine-2-carboxylic acid | 3.88 mmol, 765 mg | FC1=C2C(=CN=C1)SC(=C2)C(=O)O | C8H4FNO2S
solvent | diphenyl ether | 3.8 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | heptane | 10 mL | CCCCCCC | C7H16
catalyst | copper | 9.91 mmol, 629 mg | [Cu] | Cu
product | 4-fluorothieno[2,3-c]pyridine | 441 mg, 74% | FC1=C2C(=CN=C1)SC=C2 | C7H4FNS
